US06638929B2
4-(4-Phenoxyphenylamino)benzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile
A mixture of 250 mg (1.02 mmol) of 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile and 210 mg (1.12 mmol) of 4-phenoxyaniline in 5 mL of 2-ethoxyethanol is heated at reflux temperature for 4 hours then stirred at room temperature for 3 days. The reaction mixture is then heated at reflux temperature for an additional 6 hours, then cooled to room temperature and partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer is dried over sodium sulfate, filtered and concentrated in vacuo to provide 240 mg (60%) of a beige solid, mp 230-233° C.

reactant | 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 1.02 mmol, 250 mg | ClC1=C2C(=NC=C1C#N)C1=C(S2)C=CC=C1 | C12H5ClN2S
reactant | 4-phenoxyaniline | 1.12 mmol, 210 mg | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
solvent | 2-ethoxyethanol | 5 mL | C(C)OCCO | C4H10O2
product | 4-(4-Phenoxyphenylamino)benzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 240 mg, 60% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=C2C(=NC=C1C#N)C1=C(S2)C=CC=C1 | C24H15N3OS
